US07371757B2
b) 5-[8-[(6-chloroquinolin-4-yl)methyl]-6-(cyclopropylmethyl)-3-methyl-5-oxo-6,8-dihydro-5H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidin-9-yl]-1-methyl-1H-pyrrole-3-carbonitrile
5-[4-amino-2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile (75 mg, 0.15 mmol) was dissolved in 1.5 mL anhydrous DMF with 30 mg DBU. Chloroacetone (28 mg, 0.3 mmol, 2.0 eq.) was added and the resulting solution heated in the microwave for 90 minutes at 125° C. Two addition eq. chloroacetone were added, and the reaction returned to the microwave and heated an additional 90 minutes at 125° C. The reaction mixture was diluted with 50 mL. water and 50 mL ethyl acetate. The aqueous layer was washed 3×50 mL with ethyl acetate. The combined organic fractions were washed with 50 mL brine and dried over sodium sulfate. The crude product was purified by chromatography on silica (gradient: dichloromethane to 10% methanol in dichloromethane), followed by reverse phase HPLC using 40% aqueous acetonitrile, yielding 20 mg product. 1H NMR (300 MHz, CHLOROFORM-D) d ppm 0.55 (m, 4H) 1.48 (m, 1H) 2.27 (d, J=0.94 Hz, 3H) 3.42 (s, 3 H) 4.13 (m, 2H) 5.82 (m, 2H) 6.62 (dd, J=4.52, 1.88 Hz, 1H) 6.76 (d, J=4.33 Hz, 1H) 7.36 (d, J=1.51 Hz, 1H) 7.44 (d, J=1.13 Hz, 1H) 7.70 (dd, J=9.04, 2.26 Hz, 1H) 7.90 (d, J=2.26 Hz, 1H) 8.10 (m, 1H) 8.81 (d, J=4.52 Hz, 1H); ES M+H+=524.

reactant | 5-[4-amino-2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 0.15 mmol, 75 mg | NC=1C=2C(N(C(N1)=O)CC1CC1)=NN(C2C2=CC(=CN2C)C#N)CC2=CC=NC1=CC=C(C=C21)Cl | C25H21ClN8O
reactant | DBU | 30 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Chloroacetone | 0.3 mmol, 28 mg, 2.0 eq. | ClCC(C)=O | C3H5ClO
reactant | water | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-[8-[(6-chloroquinolin-4-yl)methyl]-6-(cyclopropylmethyl)-3-methyl-5-oxo-6,8-dihydro-5H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidin-9-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 20 mg | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2C(C=3N(C(N2CC2CC2)=O)C(=CN3)C)=C1C1=CC(=CN1C)C#N | C28H23ClN8O
